US04883789
To a solution of 1.21 g (0.0060 mole) of 5-bromo-1,3-benzodioxole in 30 mL of dry diethyl ether that had been cooled to -78° C. was added during a 15 minute period 0.42 g (0.0065 mole) of butyllithium as a 2.5 M solution in hexanes. Upon completion of addition this mixture was stirred at -78° C. for one hour. During a 20 minute period 1.9 g (0.006 mole) of [3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylchlorosilane was added as the solution prepared in Part D. The reaction mixture was allowed to warm to room temperature and to stir for an additional hour. Water was added to the reaction mixture which was then extracted With diethyl ether. The ether extract was dried over anhydrous sodium sulfate, filtered, and the solvent evaporated under reduced pressure, leavinq a residue weighing approximately 3 g. This residue was passed through a column of silica gel, eluting with methylene chloride/hexane (1/9). This procedure yielded 1.0 g of (1,3-benzodioxol-5-yl)[3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylsilane as a clear, colorless liquid, compound 43 of Table 1. The ir spectrum and the proton, carbon, and fluorine nmr spectra were all consistent with the proposed structure.

reactant | 5-bromo-1,3-benzodioxole | 0.0060 mole, 1.21 g | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
reactant | butyllithium | 0.0065 mole, 0.42 g | C(CCC)[Li]
reactant | [3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylchlorosilane | 0.006 mole, 1.9 g | FC1=C(C=C(C=C1)CCC[Si](Cl)(C)C)OC1=CC=CC=C1 | C17H20ClFOSi
reactant | Water | O | H2O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | (1,3-benzodioxol-5-yl)[3-(4-fluoro-3-phenoxyphenyl)propyl]dimethylsilane | 1.0 g | O1COC2=C1C=CC(=C2)[Si](C)(C)CCCC2=CC(=C(C=C2)F)OC2=CC=CC=C2 | C24H25FO3Si
